US08026236B2
Sodium hydride (60% w/w dispersion in mineral oil, 0.96 g) was added to a solution of 4-bromo-2-trifluoromethyl-phenol (5.0 g) in dry THF (200 ml) and the mixture was stirred for 30 minutes. 1-Chloromethoxy-2-methoxy-ethane (2.85 ml) was then added and the mixture was stirred for 1 hour at room temperature. The solvent was removed under reduced pressure. The residue was taken into water and tert-butyl methyl ether, the organic layer was washed with brine, dried over sodium sulphate and concentrated under reduced pressure to afford 4-bromo-1-(2-methoxy-ethoxymethoxy)-2-trifluoromethyl-benzene (6.4 g) as an oil. 1H NMR (CDCl3) δ: 7.69 (m, 1H), 7.53 (m, 1H), 7.19 (m, 1H), 5.33 (s, 2H), 3.83 (m, 2H), 3.55 (m, 2H), 3.37 (s, 3H).

reactant | Sodium hydride | 0.96 g | [H-].[Na+]
reactant | 4-bromo-2-trifluoromethyl-phenol | 5.0 g | BrC1=CC(=C(C=C1)O)C(F)(F)F | C7H4BrF3O
reactant | 1-Chloromethoxy-2-methoxy-ethane | 2.85 ml | ClCOCCOC | C4H9ClO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-bromo-1-(2-methoxy-ethoxymethoxy)-2-trifluoromethyl-benzene | 6.4 g | BrC1=CC(=C(C=C1)OCOCCOC)C(F)(F)F | C11H12BrF3O3
